US06388088B1
A solution of triphenylphosphine (100 mg, 0.38 mmol) in methylene chloride (3 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (68 mg, 0.38 mmol). The reaction mixture was stirred at 0° C. for 30 min and then treated with a solution of 3-cyclopentyl-2-[4-methanesulfonyl-3-(5-methyl-tetrazol-1-yl)-phenyl]-propionic acid (85 mg, 0.22 mmol) in methylene chloride (3 mL). The clear solution was stirred for 15 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 1.5 h. The reaction mixture was then treated with 2-aminothiazole (55 mg, 0.55 mmol), and the resulting suspension was stirred for 2 d at 25° C. The reaction mixture was then concentrated in vacuo to remove methylene chloride, and the residue was diluted with ethyl acetate (30 mL) and a 1N aqueous hydrochloric acid solution (25 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×25 mL). The combined organic extracts were successively washed with a 1N aqueous hydrochloric acid solution (1×50 mL), a saturated aqueous sodium bicarbonate solution (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 2/1 to 1/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-[4-methanesulfonyl-3-(5-methyl-tetrazol-1-yl)-phenyl]-N-thiazol-2-yl-propionamide (42 mg, 41%) as a white solid: mp 148-154° C.; EI-HRMS m/e calcd for C20H24N6O3S2 (M+) 460.1351, found 460.1356.

reactant | triphenylphosphine | 0.38 mmol, 100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.38 mmol, 68 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-[4-methanesulfonyl-3-(5-methyl-tetrazol-1-yl)-phenyl]-propionic acid | 0.22 mmol, 85 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)S(=O)(=O)C)N1N=NN=C1C | C17H22N4O4S
reactant | 2-aminothiazole | 0.55 mmol, 55 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-[4-methanesulfonyl-3-(5-methyl-tetrazol-1-yl)-phenyl]-N-thiazol-2-yl-propionamide | 42 mg, 41% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)S(=O)(=O)C)N1N=NN=C1C | C20H24N6O3S2
